US06057358
Dibromoethane (5.25 g, 0.049 mol) and 2,4-dinitrophenol (3 g, 0.016 mol) were added to dimethylformamide (20 ml) and, after adding a fine powder of potassium carbonate (2.24 g), the mixture was heated at 85° C. for 1.5 h. Thereafter, the solvent was evaporated and three extractions were conducted with ethyl acetate. The organic extracts were combined and dried with sodium sulfate, with the residue being subjected to column chromatography on silica gel using methylene chloride as an eluent. The fractions containing the end product were collected and the solvent was evaporated to yield the end compound 2,4-dinitrophenoxyethly bromide (1.64 g).

reactant | Dibromoethane | 0.049 mol, 5.25 g | BrC(C)Br | C2H4Br2
reactant | 2,4-dinitrophenol | 0.016 mol, 3 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
reactant | potassium carbonate | 2.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,4-dinitrophenoxyethly bromide | 1.64 g | [N+](=O)([O-])C1=C(OCCBr)C=CC(=C1)[N+](=O)[O-] | C8H7BrN2O5
